US05310914
A mixture of phenethylamine (5.0 g), 5,6,7,8-tetrahydro-2-(phenylmethoxy)-5-oxoquinoline (10.0 g), and a catalytic amount of para-toluenesulfonic acid (206 mg) was heated under reflux in toluene (200 ml) with azeotropic removal of water for 36 hrs. The solution was cooled and washed with water. The aqueous phase was extracted with dichloromethane, and the combined organic layers were washed with brine, dried over anhydrous magnesium sulfate, filtered, and the filtrate was concentrated. Sodium borohydride (1.4 g) was added to a solution of the residue and ethyl alcohol (125 ml) and the mixture was stirred at room temperature for 3 hrs. The reaction mixture was concentrated in vacuo, the residue was quenched with water, and the mixture was extracted with ethyl acetate. The combined organic layers were washed with brine, dried over anhydrous magnesium sulfate, filtered, and the filtrate was concentrated to afford 12.5 g (92%) of 5,6,7,8-tetrahydro-5-(2-phenethylamino)-2-phenylmethoxy)quinoline.

reactant | phenethylamine | 5.0 g | C(CC1=CC=CC=C1)N | C8H11N
reactant | 5,6,7,8-tetrahydro-2-(phenylmethoxy)-5-oxoquinoline | 10.0 g | C1(=CC=CC=C1)COC1=NC=2CCCC(C2C=C1)=O | C16H15NO2
reactant | para-toluenesulfonic acid | 206 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | quinoline | N1=CC=CC2=CC=CC=C12 | C9H7N
